US07615646B2
7. Synthesis of ethyl 2-acetyl-7-acetyloxy-2-methylheptanoate
In a 1 L three necked flask equipped with a mechanical stirrer and reflux condenser was placed dry toluene (300 ml). The system was flushed with argon and sodium hydride (Aldrich, 60% dispersion in mineral oil) (7.2 g, 1.2 eq.) was added. Ethyl-α-methylacetoacetate (Aldrich, 21 g, 0.15 mole) was added with stirring over a 30 minutes. The resulting solution was heated under reflux for 2 hours and cooled slightly. (Note: Reaction mixture becomes a thick paste and a mechanical stirrer is essential). 5-Bromopentylacetate (Aldrich, 31.5 g, 15 mol) was added (all at once) and the suspension was heated under reflux for 12 hr, cooled, filtered and the solvent evaporated under reduced pressure. The residue was distilled under vacuum to yield 20 g (45%) of colorless liquid, b.p 90-92 (0.5 mm). 1H NMR in CDCl3 δ, 4.1-4.2 (m, 2H, O—CH2CH3): 3.5 (t, J=7 Hz, 2H, CH2OCO—); 2.2 (s, 3H, CH3CO); 2.1 (s, 3H, —COCH3); 1.5-2.0 (m, 10H, 4-(CH2)2, C—CH3, OCH2CH3).

reactant | sodium hydride | 7.2 g, 1.2 eq. | [H-].[Na+]
reactant | Ethyl-α-methylacetoacetate | 0.15 mole, 21 g | C(C)OC(C(C(=O)C)C)=O | C7H12O3
reactant | 5-Bromopentylacetate | 15 mol, 31.5 g | BrCCCCCOC(C)=O | C7H13BrO2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-acetyl-7-acetyloxy-2-methylheptanoate | 20 g, 45% | C(C)(=O)C(C(=O)OCC)(CCCCCOC(C)=O)C | C14H24O5
